US05256675
A mixture of 2-acetylamino-5-(3-pyridylthio)thiazole (8.5 g) in a mixture of ethanol (160 ml), tetrahydrofuran (50 ml) and aqueous 6N hydrochloric acid (100 ml) was refluxed for 4 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 8.5 using aqueous sodium bicarbonate and the precipitates were collected by filtration, washed with water and dried in vacuo to give 2-amino-5-(3-pyridylthio)thiazole (5.6 g yield: 78.9%). mp: 140°-142° C. IR (Nujol): 3400, 3300, 3125, 1630, 1530, 1490 cm-1

reactant | 2-acetylamino-5-(3-pyridylthio)thiazole | 8.5 g | C(C)(=O)NC=1SC(=CN1)SC=1C=NC=CC1 | C10H9N3OS2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 2-amino-5-(3-pyridylthio)thiazole | 5.6 g, yield: 78.9% | NC=1SC(=CN1)SC=1C=NC=CC1 | C8H7N3S2
